US06002008
A mixture of 0.249 g of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile, 0.139 g of 2-(methylmercapto)aniline, 20 mg of pyridine hydrochloride, and 10 ml of ethoxyethanol was stirred under nitrogen, at reflux temperature for 30 minutes. The mixture was cooled and added to 40 ml of water. To this mixture was added sodium carbonate and concentrated hydrogen chloride to adjust pH to 7. The product was collected, washed with water, and dried to give 0.184 g of 6,7-dimethoxy-4-(2-methylsulfanyl-phenylamino)-quinoline-3-carbonitrile as a solid, mp 245-247° C.; mass spectrum (EI, m/e): M 351.1051.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 0.249 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 2-(methylmercapto)aniline | 0.139 g | CSC1=C(N)C=CC=C1 | C7H9NS
reactant | pyridine hydrochloride | 20 mg | Cl.N1=CC=CC=C1
reactant | ethoxyethanol | 10 ml | C(C)OC(C)O | C4H10O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 6,7-dimethoxy-4-(2-methylsulfanyl-phenylamino)-quinoline-3-carbonitrile | 0.184 g | COC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=C(C=CC=C1)SC | C19H17N3O2S
